US08703763B2
a) N-(3-(1-Hydroxy-4,4-dimethylcyclohexyl)pyridin-2-yl)pivalamide
To a solution of N-(pyridin-2-yl)pivalamide (1.1 g, 6 mmol) in tetrahydrofurane (30 mL) was added at −78° C. under nitrogen and stirring a solution of 1.6M n-butyllithium in hexane (7.88 mL, 12.6 mmol). The reaction is exotherm and it turns light yellow. The reaction was stirred for 15 minutes at −78° C. and then for 2 hours at 0° C. The reaction was cooled to −78° C. and 4,4-dimethylcyclohexanone (937 mg, 7.2 mmol) dissolved in tetrahydrofurane (5 mL) was added dropwise. The reaction was warmed to room temperature over night. The reaction was quenched with saturated aqueous ammonium chloride solution and extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate as the eluent to yield the title compound as a white powder (1.034 g, 57%).

reactant | N-(pyridin-2-yl)pivalamide | 6 mmol, 1.1 g | N1=C(C=CC=C1)NC(C(C)(C)C)=O | C10H14N2O
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 12.6 mmol, 7.88 mL | CCCCCC | C6H14
reactant | 4,4-dimethylcyclohexanone | 7.2 mmol, 937 mg | CC1(CCC(CC1)=O)C | C8H14O
solvent | tetrahydrofurane | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 5 mL | O1CCCC1 | C4H8O
product | N-(3-(1-Hydroxy-4,4-dimethylcyclohexyl)pyridin-2-yl)pivalamide | 1.034 g, 57% | OC1(CCC(CC1)(C)C)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C18H28N2O2
